US08648081B2
Stir a mixture of methyl 3-(3-(3,5-dichlorophenyl)-4,4,4-trifluoro-3-hydroxyl butanoyl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxylate (9.1 g, 18.9 mmol), SOCl2 (9.0 g, 5.5 mL, 75.6 mmol) and pyridine (2.99 g, 3.1 mL, 37.8 mmol) in anhydrous DCM (100 mL) at ambient temperature overnight. Dilute the resultant mixture with saturated NH4Cl aqueous solution. Extract the aqueous mixture with DCM (100 mL×3). The combined organic layers are washed with brine, dried over anhydrous Na2SO4 and concentrated under vacuum. Purify the residue by silica gel chromatograph (PE:EtOAc 50:1) to afford 3-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid methyl ester as an orange solid (8.75 g, 100%). (m/z): 463 (M+1).

reactant | methyl 3-(3-(3,5-dichlorophenyl)-4,4,4-trifluoro-3-hydroxyl butanoyl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxylate | 18.9 mmol, 9.1 g | ClC=1C=C(C=C(C1)Cl)C(CC(=O)C1=C2C(=C(S1)C(=O)OC)CCCC2)(C(F)(F)F)O | C20H17Cl2F3O4S
reactant | SOCl2 | 75.6 mmol, 5.5 mL, 9.0 g | O=S(Cl)Cl | Cl2OS
reactant | pyridine | 37.8 mmol, 3.1 mL, 2.99 g | N1=CC=CC=C1 | C5H5N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | NH4Cl | [NH4+].[Cl-]
product | 3-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid methyl ester | 8.75 g, 100% | COC(=O)C=1SC(=C2C1CCCC2)C(C=C(C(F)(F)F)C2=CC(=CC(=C2)Cl)Cl)=O | C20H15Cl2F3O3S
